US07414076B2
Preparation of 3-[(1R,2S)-2-hydroxy-1-(methoxymethyl)-2-phenylethyl]amino-1-propanesulfonic acid (Compound EG)
To a solution of (1S,2S)-2-amino-3-methoxy-1-phenyl-1-propanol (1.0 g, 5.5 mmol) in tetrahydrofuran (10 mL) was slowly added 1,3-propane sultone (662 mg, 5.3 mmol). The mixture was stirred at reflux for 2.5 h. The reaction mixture was cooled to room temperature. The solid material was collected by filtration, washed with acetone (2×25 mL). The crude product was suspended 80% Acetone/EtOH. The suspension was stirred at reflux for 30 seconds. The solid product was collected by filtration and dried in a vacuum oven (50° C.), to afford compound EG (1.0 g, 63%). 1H NMR (D2O, 500 MHz) δ ppm 7.32 (m, 5H), 4.77 (d, 1H, J=9.8 Hz), 3.53 (m, 1H), 3.37 (m, 1H) 3.26 (m, 1H), 3.17 (m, 6H), 2.91 (t, 2H, J=7.3 Hz), 2.07 (m, 2H). 13C NMR D2O, 125 MHz) δ ppm 139.09, 129.33, 129.27, 127.11, 70.85, 66.29, 62.62, 58.76, 48.14, 44.24, 21.47. [C]D=+42.6° (c=0.00091 in water), ES-MS 302 (M−1).

reactant | (1S,2S)-2-amino-3-methoxy-1-phenyl-1-propanol | 5.5 mmol, 1.0 g | N[C@H]([C@@H](O)C1=CC=CC=C1)COC | C10H15NO2
reactant | 1,3-propane sultone | 5.3 mmol, 662 mg | C1COS(=O)(=O)C1 | C3H6O3S
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-[(1R,2S)-2-hydroxy-1-(methoxymethyl)-2-phenylethyl]amino-1-propanesulfonic acid | O[C@H]([C@@H](COC)NCCCS(=O)(=O)O)C1=CC=CC=C1 | C13H21NO5S
